US05244908
Synthesis of 5-[3-[3-(phenyl)propyloxy]propylthio]imidazo[1,2-a]pyridine (Compound 182)
To a solution of 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine (1.070 g, 5.137 mmoles) in tetrahydrofuran (30 ml) was added 60% sodium hydride in oil (0.25 g, 6.2 mmoles) with stirring under ice-cooling and the mixture was stirred under ice-cooling for 30 minutes. To the reaction mixture was added methyl iodie (1.53 g, 7.71 mmoles), followed by stirring at room temperature overnight. The reaction mixture was poured into water, which was extracted with methylene chloride (30 ml×3). The methylene chloride layers were combined and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 0.987 g of the desired compound (58.9%, light brown oily product).

reactant | 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine | 5.137 mmoles, 1.070 g | OCCCSC1=CC=CC=2N1C=CN2 | C10H12N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodie | 7.71 mmoles, 1.53 g | CC=1[IH]C=CC1 | C5H7I
reactant | water | O | H2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-[3-[3-(phenyl)propyloxy]propylthio]imidazo[1,2-a]pyridine | 0.987 g, 58.9% | C1(=CC=CC=C1)CCCOCCCSC1=CC=CC=2N1C=CN2 | C19H22N2OS
